US05650510
A solution of 2-benzyloxymethyl-3-diethylphosphonomethoxy-1-propanol (0.25 g, 0.72 mmol) in 5 mL of CH2Cl2 was cooled to 0° C. and treated with triethylamine (0.22 g, 2.16 mmol). A solution of p-toluenesulfonyl chloride (0.151 g, 0.79 mmol) in 2 mL of CH2Cl2 was added next and the reaction mixture allowed to warm gradually to room temperature. After 14 hours at room temperature, the mixture was diluted with CH2Cl2 and washed with two portions of 10% aqueous HCl and saturated sodium chloride solution, dried over MgSO4, filtered, and concentrated to give an orange oil. Purification by column chromatography on silica gel (1-3% ethanol in ethyl acetate) provided 0.295 g of 2-benzyloxymethyl-3-diethylphosphonomethoxy-1-(p-toluenesulfonyloxy)propane as a pale yellow oil.

reactant | 2-benzyloxymethyl-3-diethylphosphonomethoxy-1-propanol | 0.72 mmol, 0.25 g | C(C1=CC=CC=C1)OCC(CO)COCP(=O)(OCC)OCC | C16H27O6P
reactant | triethylamine | 2.16 mmol, 0.22 g | C(C)N(CC)CC | C6H15N
reactant | p-toluenesulfonyl chloride | 0.79 mmol, 0.151 g | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
solvent | CH2Cl2 | 5 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 2 mL | C(Cl)Cl | CH2Cl2
product | 2-benzyloxymethyl-3-diethylphosphonomethoxy-1-(p-toluenesulfonyloxy)propane | 0.295 g | C(C1=CC=CC=C1)OCC(COS(=O)(=O)C1=CC=C(C=C1)C)COCP(=O)(OCC)OCC | C23H33O8PS
